US04933333
A solution of 0.35 ml of dimethyl sulfoxide in 1 ml of dried methylene chloride was added dropwise to a solution of 0.2 ml of oxalyl chloride in 5 ml of dried methylene chloride at -60° to -70° C. Ten minutes later, 10 ml of a dried methylene chloride solution of 860 mg of trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline p-methoxybenzyl ester was added dropwise to the above mixture at a temperature of -50° C. or less, followed by stirring for 15 minutes. 1.01 g of triethylamine was then added dropwise thereto, and the resulting mixture was warmed to room temperature. The mixture was diluted with methylene chloride, washed with dilute hydrochloric acid aqueous solution and dried over sodium sulfate. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography to yield 1-(p-nitrobenzyloxycarbonyl)-4-oxo-L-proline p-methoxybenzyl ester.

reactant | dimethyl sulfoxide | 0.35 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline p-methoxybenzyl ester | 860 mg | COC1=CC=C(COC([C@H]2N(C[C@@H](C2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C21H22N2O8
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(p-nitrobenzyloxycarbonyl)-4-oxo-L-proline p-methoxybenzyl ester | COC1=CC=C(COC([C@H]2N(CC(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C21H20N2O8
